US05254581
n-Butyl-lithium (1.6M in hexane, 1.375 ml) was added dropwise to a solution of methyltriphenylphosphonium bromide (0.786 g) in a mixture of THF (15 ml) and diethyl ether (2 ml). The mixture was stirred at ambient temperature for 2 hours. The solution so obtained was added dropwise to a solution of 4-(3-benzyloxyphenyl)-4-formyltetrahydropyran (0.592 g) in diethyl ether (10 ml) and the mixture was stirred at ambient temperature for 4 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography using increasingly polar mixtures of petroleum ether (b.p 40°-60° C.) and ethyl acetate as eluent. There was thus obtained 4-(3-benzyloxyphenyl-4-vinyltetrahydropyran (0.407 g, 70%), as an oil.

reactant | n-Butyl-lithium | 1.6M, 1.375 ml | C(CCC)[Li]
reactant | 4-(3-benzyloxyphenyl)-4-formyltetrahydropyran | 0.592 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCOCC1)C=O | C19H20O3
reactant | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.786 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-benzyloxyphenyl-4-vinyltetrahydropyran | 0.407 g, 70% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1OCCC(C1)C=C | C20H22O2
